US04719047
10-Butoxyanthracene was formylated using DMF as both solvent and electrophile by the procedure of E. Campaigne and W. L. Archer, J. Amer. Chem. Soc. 75 989 (1953), affording 10-butoxy-9-anthracenecarbaldehyde mp 65°-67°, (pentane), (C,H).

reactant | 10-Butoxyanthracene | C(CCC)OC1=C2C=CC=CC2=CC2=CC=CC=C12 | C18H18O
reactant | DMF | CN(C)C=O | C3H7NO
product | 10-butoxy-9-anthracenecarbaldehyde | C(CCC)OC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C19H18O2
